US07199124B2
tert-butyl 4-methyl-2-pyrimidinylcarbamate
Di(tert-butyl) dicarbamate (12 mL, 50 mmol) was added dropwise to a solution of 4-methyl-2-pyrimidinylamine (5.0 g, 46 mmol) in tert-butanol over 1 hr. and the solution was stirred at room temperature for 14 hrs. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate=1:1). Crystallization from isopropyl ether-hexane gave the title compound (6.7 g, yield 70%).

reactant | Di(tert-butyl) dicarbamate | 50 mmol, 12 mL | C(N)(OC(C)(C)C)=O.C(N)(OC(C)(C)C)=O | 2C5H11NO2
reactant | 4-methyl-2-pyrimidinylamine | 46 mmol, 5.0 g | CC1=NC(=NC=C1)N | C5H7N3
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | tert-butyl 4-methyl-2-pyrimidinylcarbamate | 6.7 g, yield 70% | CC1=NC(=NC=C1)NC(OC(C)(C)C)=O | C10H15N3O2
